data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,3860,"CC(=O)[O-].CC[C:1](=[OH+:2])[CH:3]=[CH2:4].C[C:5]1=[C:6]([OH:7])CCC1=O|(7, 6);((6, 5), 4);((4, 3), 1);((1, 2), 2)"
train,pmechdb_split_0,0,2839,"CC1(CC[C:1]([CH:2](C)[H:3])=[O:4])CCCCC1=O.[OH-:5]|(5, 3);((3, 2), 1);((1, 4), 4)"
train,pmechdb_split_0,0,2630,"BrC(Br)Br.COC1=CC=C(CCO[P:1](C2=CC=CC=C2)(C2=CC=CC=C2)(C2=CC=CC=C2)[Br:2])C=C1|((1, 2), 2)"
train,pmechdb_split_0,0,609,"C[C:1]([CH:2](C1=CC=CC=C1)[H:3])=[O:4].[OH-:5]|(5, 3);((3, 2), 1);((1, 4), 4)"
train,pmechdb_split_0,0,3399,"C[O:1][CH:2]=[OH+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,8370,"CC(CC1=NC=CC=C1)(CC1=NC=CC=C1)[O-:1].[H:2][OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,9085,"CCC[CH2][Sn:1]([CH2]CCC)([CH2]CCC)[O+](CC)CC.[F-:2]|(2, 1)"
train,pmechdb_split_0,0,1788,"C1=CC=CC=C1.CC(CO)OC(C1=CC=C([N+](=O)[O-])C=C1)[OH:1].CC1=CC=C(S(=O)(=O)[O:2][H:3])C=C1|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,534,"CC1CCC2CC(=[O+][Zn-:1]([I])[I:2])C12.C[Si](C)(C)I|((1, 2), 2)"
train,pmechdb_split_0,0,955,"C1CC2(CCO1)[CH2:1][O:2]2.CCC1=C(N2CC[NH:3]CC2)C=C2C(=O)C3=C(C4=C(C=C(C#N)C=C4)N3)C(C)(C)C2=C1.CCN(C(C)C)C(C)C.CO|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,8997,"C[C+:1]1C2=CC=CC=C2[C:2](S(=O)(=O)O)([H:3])[CH:4]=[CH:5]1.O=S(=O)(O)[O-:6]|(6, 3);((3, 2), 4);((4, 5), 1)"
train,pmechdb_split_0,0,3520,"CC(=O)O[I+:1]1([O:2][CH:3](C)[H:4])OC(=O)C2=C1C=CC=C2.CC(O)=[O:5]|(5, 4);((4, 3), 2);((2, 1), 1)"
train,pmechdb_split_0,0,7891,"OC1CCCCC1CNN=[O:1].[Cl-].[H:2][OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,5861,"C1=CC=[N+:1]([H:2])C=C1.COC(=O)CC(=O)C(C(=O)OC)C(CCl)[O-:3].O|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,8490,"C=CCC(C(C)=CC1=CSC(C)=N1)[O:1][Ti]([O]C(C)C)([O]C(C)C)[O]C(C)C.CCC[CH2][Sn]([CH2]CCC)([CH2]CCC)[O]C(C)C.[H:2][OH:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,6536,"CN(CC[C+:1](C)C)C[CH:2]=[C:3]=C[Si](C)(C)C|((3, 2), 1)"
train,pmechdb_split_0,0,3563,"CCCC1CC2=C(C(=O)C1(CCC(C)=O)C([O-])[O+:1]([Na])[H:2])C(O)=C(OC)C=C2.O.[Na][OH:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,561,"CC[Si](CC)(CC)[C:1]1([H:2])SCCCS1.C[C:3](C)(C)[Li:4]|((4, 3), 2);((2, 1), 1)"
train,pmechdb_split_0,0,9542,"CC(=O)[O:1][H:2].CC1(C)C2CC1[C:3](CC(C(=O)C1=C(F)C=CC=C1)[N+]1=CC=CC=C1)=[C:4]([O-:5])C2.[I-].[NH4+]|(5, 4);((4, 3), 2);((2, 1), 1)"
train,pmechdb_split_0,0,4626,"CCCC[NH2+:1][H:2].CC[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,1324,"CCOCCC(OC)=[O+:1][H:2].O=S(=O)(O)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,5192,"CCOC(=O)C(C(=O)OCC)C(C1=CC=CC=C1)=[C:1]=[C:2](OCC)[O-:3].CO.C[O+:4]([Na])[H:5]|(3, 2);((2, 1), 5);((5, 4), 4)"
train,pmechdb_split_0,0,1286,"CN[C:1](=[C:2](C)Br)[O-:3].[Br:4][Br:5]|(3, 1);((1, 2), 4);((4, 5), 5)"
train,pmechdb_split_0,0,7261,"C1=CC=C([S-:1])C=C1.C1=CC=[NH+]C=C1.CC(O[C:2](C(F)(F)F)=[O:3])SC1=CC=CC=C1|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,9426,"CCO.CCOC(=O)C[C:1]1([OH:2])NNC(=S)[N-:3]1.[Na+]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,2099,"CC1(C)C2=C(C=CC=C2)CC[O+:1]1[H:2].[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,2523,"CC(C)[N-:1]C(C)C.[C-]#CC[CH:2]([H:3])[CH2:4][Br:5]|(1, 3);((3, 2), 4);((4, 5), 5)"
train,pmechdb_split_0,0,1609,"CC(=O)CCC(C)([NH2+]C1=C(Br)C=CC=C1)[O-:1].CC(=O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,2783,"[AlH3-][O]CCC[O-:1].[AlH3:2]|(1, 2)"
train,pmechdb_split_0,0,4610,"CC#CC[O:1][Si-:2](C)(C)(C)F|((2, 1), 1)"
train,pmechdb_split_0,0,1243,"CO.COC1=C(OC)C=C(C(C(C)C(C)[C:1](C2=CC(OC)=C(OC)C=C2)=[OH+:2])=[O:3])C=C1.O.[Cl-]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,699,"CC(=C[O-:1])C1CCC(C)C1[CH:2]=[N+:3](C)C1=CC=CC=C1.C[NH2+]C1=CC=CC=C1.O|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,1379,"CC[CH:1]=[O+:2]CC.CC[OH:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,2428,"C1CO[C:1](=[O:2])OC1.[OH-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,1743,"N#[N+:1][CH3:2].NC1=NC2=C(C(=O)N1)[N:3]=CN2|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,3337,"COC1=C[CH+:1][C:2]([N+](=O)[O-])([H:3])O1.O=S(=O)(O)[O-:4]|(4, 3);((3, 2), 1)"
train,pmechdb_split_0,0,1758,"CC(=O)O.CC(=O)OI1OC(=O)C2=C1C=CC=C2.CC(=O)O[I+:1]1(OC(C)=O)OC(=O)C2=C1C=CC=C2.CC(=O)[O-].CCN1C(C=O)CC2(C34CC(C[OH:2])N(CC)C3NC3=CC=CC=C34)C3=CC=CC=C3NC12|(2, 1)"
train,pmechdb_split_0,0,8977,"C=CCN1CCC23C4=C5C=CC(OC)=C4OC2C(N=[N:1][H:2])CCC3(O)C1C5.[K+].[OH-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,6728,"C[NH+:1](CCCC(Br)C1=CN=CC=C1)[H:2].O=C([O-])[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,214,"C=C(C(=O)OC)C(C)O[P:1](C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)[Br:2].O=C1CCC(=O)N1|((1, 2), 2)"
train,pmechdb_split_0,0,5712,"CC(=O)[O-].O=C(O)C[NH:1][C:2](CC(C(=O)C1=CC=CO1)C1=CC=CC=C1)(C1=C2C=CC=CC2=CC=C1)[OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,115,"COC1=C([O-:1])C2=C(C=C1)CC1NCCC23C=CCCC13O.N#N.[H:2][OH:3].[K+]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,8571,"C[O-:1].C[Si:2](C)(C)Cl|(1, 2)"
train,pmechdb_split_0,0,2114,"CCO[C:1](=[CH:2]Cl)[O-:3].C[C:4](C1=CC=CC=C1)=[O:5]|(3, 1);((1, 2), 4);((4, 5), 5)"
